US04329460
A mixture of 5.52 g. (30 mmoles) of ethyl 1,2,3,4-tetrahydro-2,4-dioxopyrimidine-5-carboxylate, 15 g. of 2,3-dihydrofuran and 15 ml. of pyridine is heated at 135° C. for 6 hours. The reaction mixture is concentrated to dryness under reduced pressure and, with the addition of 20 ml. of water, the pyridine is azeotropically removed. The residue is dissolved in 50 ml. of 50% ethanol and heated at 75° C. for 2 hours. The reaction mixture is concentrated to dryness under reduced pressure and the residue is stirred well with 40 ml. of chloroform. Then, 0.9 g. of insoluble ethyl 1,2,3,4-tetrahydro-2,4-dioxopyrimidine-5-carboxylate is recovered. The mother liquor is concentrated to dryness and the residue is recrystallized from 15 ml. of ethanol to give 3.1 g. (yield: 40.6%) of ethyl 1-(2-tetrahydrofuryl)-1,2,3,4-tetrahydro-2,4-dioxopyrimidine-5-carboxylate, melting point: 125° C.

reactant | ethyl 1,2,3,4-tetrahydro-2,4-dioxopyrimidine-5-carboxylate | 30 mmoles | O=C1NC=C(C(N1)=O)C(=O)OCC | C7H8N2O4
reactant | 2,3-dihydrofuran | O1CCC=C1 | C4H6O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | ethyl 1-(2-tetrahydrofuryl)-1,2,3,4-tetrahydro-2,4-dioxopyrimidine-5-carboxylate | yield: 40.6% | O1C(CCC1)N1C(NC(C(=C1)C(=O)OCC)=O)=O | C11H14N2O5
